US07285558B2
2-[(5-chloro-1H-indol-3-yl)methyl]-3-{4-[(1E)N-hydroxyethanimidoyl]-1-methyl-1H-pyrrol-2-yl}-7-isobutyl-5-methyl-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione
This compound was made in one pot following the procedure described above, starting with 6-hydrazino-1-isobutyl-3-methylpyrimidine-2,4(1H,3H)-dione, and condensing first 5-chloro-1H-indole-3-carbaldehyde, followed by 4-acetyl-1-methyl-1H-pyrrole-2-carbaldehyde. To the crude 3-(4-acetyl-1-methyl-1H-pyrrol-2-yl)-2-[(5-chloro-1H-indol-3-yl)methyl]-7-isobutyl-5-methyl-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione was treated with hydroxylamine hydrochloride and heated at 80° C. in N,N′Dimethylacetamide for 18 h. The crude reaction product was purified by semi-prep RPHPLC eluting with water/acetonitrile/trifluoroacetic acid mixtures. 522 (M+H).

reactant | 6-hydrazino-1-isobutyl-3-methylpyrimidine-2,4(1H,3H)-dione | N(N)C1=CC(N(C(N1CC(C)C)=O)C)=O | C9H16N4O2
reactant | 5-chloro-1H-indole-3-carbaldehyde | ClC=1C=C2C(=CNC2=CC1)C=O | C9H6ClNO
reactant | 4-acetyl-1-methyl-1H-pyrrole-2-carbaldehyde | C(C)(=O)C=1C=C(N(C1)C)C=O | C8H9NO2
reactant | 3-(4-acetyl-1-methyl-1H-pyrrol-2-yl)-2-[(5-chloro-1H-indol-3-yl)methyl]-7-isobutyl-5-methyl-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione | C(C)(=O)C=1C=C(N(C1)C)C=1N(N=C2N(C(N(C(C21)=O)C)=O)CC(C)C)CC2=CNC1=CC=C(C=C21)Cl | C26H27ClN6O3
reactant | hydroxylamine hydrochloride | Cl.NO
product | 2-[(5-chloro-1H-indol-3-yl)methyl]-3-{4-[(1E)N-hydroxyethanimidoyl]-1-methyl-1H-pyrrol-2-yl}-7-isobutyl-5-methyl-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione | ClC=1C=C2C(=CNC2=CC1)CN1N=C2N(C(N(C(C2=C1C=1N(C=C(C1)\C(\C)=N\O)C)=O)C)=O)CC(C)C | C26H28ClN7O3
